US05679683
A solution of 7-amino-6-nitro-3H-quinazolin-4-one (5.90 g, 28.6 mmol) [Leonard, N. J.; Morrice, A. G.; Sprecker, M. A.; J. Org. Chem., 1975, 40, 356-363] in a mixture of glacial acetic acid (300 mL) and acetic anhydride (100 mL) is heated under reflux for 6 h, and water (100 mL) is added. The solution is then concentrated to a small volume to give 7-acetamido-6-nitro-3H-quinazolin-4-one (5.37 g, 76%). 1H NMR (DMSO) δ10.51 (1H, brs), 8.57 (1H, s), 8.24 (1H, s), 7.97 (1H, s), 2.15 (3H, s).

reactant | 7-amino-6-nitro-3H-quinazolin-4-one | 28.6 mmol, 5.90 g | NC1=C(C=C2C(NC=NC2=C1)=O)[N+](=O)[O-] | C8H6N4O3
reactant | acetic acid | 300 mL | C(C)(=O)O | C2H4O2
reactant | acetic anhydride | 100 mL | C(C)(=O)OC(C)=O | C4H6O3
solvent | water | 100 mL | O | H2O
product | 7-acetamido-6-nitro-3H-quinazolin-4-one | 5.37 g, 76% | C(C)(=O)NC1=C(C=C2C(NC=NC2=C1)=O)[N+](=O)[O-] | C10H8N4O4
